US04522742
Preparation of 2,5-Diphenyl-3-methyloxazolium Toluenesulfonate
10 g of 2,5-Diphenyloxazole was heated at 125° C. for 5-10 minutes with 30 g of methyl toluenesulfonate, both commercially available compounds. The solution was cooled, and anhydrous ether was added to precipitate the product. The product was recrystallized by dissolving in absolute ethanol and then adding ethyl acetate. The product was obtained in 95% yield, and had a melting point of 167°-168° C.

reactant | 2,5-Diphenyloxazole | 10 g | C1(=CC=CC=C1)C=1OC(=CN1)C1=CC=CC=C1 | C15H11NO
reactant | methyl toluenesulfonate | 30 g | C=1(C(=CC=CC1)S(=O)(=O)OC)C | C8H10O3S
solvent | ether | CCOCC | C4H10O
product | 2,5-Diphenyl-3-methyloxazolium Toluenesulfonate | 95% yield | C=1(C(=CC=CC1)S(=O)(=O)[O-])C.C1(=CC=CC=C1)C=1OC(=C[N+]1C)C1=CC=CC=C1 | InChI=1S/C16H14NO.C7H8O3S/c1-17-12-15(13-8-4-2-5-9-13)18-16(17)14-10-6-3-7-11-14;1-6-4-2-3-5-7(6)11(8,9)10/h2-12H,1H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1
